US09328116B2
Synthesis of 1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-3-[5-methyl-3-(trifluoromethyl)pyrazol-1-yl]pyrrolidin-2-one
A mixture of 3-bromo-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one (0.023 g, 0.063 mmol), 5-methyl-3-(trifluoromethyl)-1H-pyrazole (0.040 g, 0.27 mmol) and K2CO3 (0.060 g, 0.43 mmol) in DMF (1 mL) was stirred at 60° C. for 1 hr. It was then cooled to room temperature, quenched with water (30 mL) and extracted with EtOAc (100 mL). The organic layer was separated, dried over anhydrous sodium sulfate, concentrated in vacuo and purified by flash chromatography (SiO2, 0˜100% EtOAc/hexanes gradient elution) to give the title compound (0.022 g, 80%). 1H NMR (400 MHz, CDCl3) δ 7.52 (s, 1H), 7.37 (dd, J=9.2, 4.8 Hz, 2H), 7.17 (dd, J=8.6, 8.6 Hz, 2H), 6.32 (s, 1H), 5.05 (dd, J=9.2, 5.6 Hz, 1H), 4.07 (m, 1H), 3.80 (m, 1H), 2.84-3.02 (m, 2H), 2.74 (m, 1H), 2.45 (s, 3H), 1.21 (d, J=7.6 Hz, 3H), 1.11 (d, J=6.8 Hz, 3H); MS: (ES) m/z calculated for C21H21F4N5O [M+H]+ 436.1. found 436.1.

reactant | 3-bromo-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one | 0.063 mmol, 0.023 g | BrC1C(N(CC1)C=1C=NN(C1C(C)C)C1=CC=C(C=C1)F)=O | C16H17BrFN3O
reactant | 5-methyl-3-(trifluoromethyl)-1H-pyrazole | 0.27 mmol, 0.040 g | CC1=CC(=NN1)C(F)(F)F | C5H5F3N2
reactant | K2CO3 | 0.43 mmol, 0.060 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-3-[5-methyl-3-(trifluoromethyl)pyrazol-1-yl]pyrrolidin-2-one | 0.022 g, 80% | FC1=CC=C(C=C1)N1N=CC(=C1C(C)C)N1C(C(CC1)N1N=C(C=C1C)C(F)(F)F)=O | C21H21F4N5O
